US07405236B2
d] {7-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid
In analogy to the procedure described for example 1 e], {7-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester was treated with LiOH to obtain the title compound as brown liquid.

reactant | {7-[5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | C(C)OC(CN1C=CC2=CC=CC(=C12)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H22F3NO4
reactant | LiOH | [Li+].[OH-]
product | {7-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid | FC(OC1=CC=C(C=C1)C#CCCCOC=1C=CC=C2C=CN(C12)CC(=O)O)(F)F | C22H18F3NO4
